US09422292B2
A disposable tube was charged with ethyl 3-(2-amino-3-fluorophenylamino)propanoate (800 mg, 3.54 mmol) and a stirbar. Toluene (10 mL) was added, followed by tetraisopropoxytitanium (523 μl, 1.768 mmol), and the solution was stirred at 80° C. 0.5 h. The solution was diluted with ethyl acetate, concentrated with celite, and purified by silica gel chromatography (eluting with hexanes/ethyl acetate) to yield 9-fluoro-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one as a white amorphous solid (0.618 g, 3.43 mmol, 97%).

reactant | ethyl 3-(2-amino-3-fluorophenylamino)propanoate | 3.54 mmol, 800 mg | NC1=C(C=CC=C1F)NCCC(=O)OCC | C11H15FN2O2
reactant | Toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetraisopropoxytitanium | 1.768 mmol, 523 μl | C(C)(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | 9-fluoro-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one | 3.43 mmol, 0.618 g, 97% | FC1=CC=CC2=C1NC(CCN2)=O | C9H9FN2O
